2136-09-28 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -CT abd/pelvis - sm bowel enteritis likely inflammatory or infectious
   mainly in RLQ, watery stool in colon otherwise negative
   -ID recs: send stool cultures, U/A, Urine cx, continue current
   antibiotics
   -given two units prbcs, hct went from 24-> 32.
   -bandemia trending downward
   -BMT: no new recs beside cyclosporine level
   -cyclosporine level pending
   -switched neo to levophed -> weaned off around 6:30 AM
   -because of pressor requirement, MRI spine was never obtained.
   Allergies:
   Ambisome (Intraven) (Amphotericin B Liposome)
   severe back pa
   Last dose of Antibiotics:
   Voriconazole - [**2136-9-27**] 08:32 PM
   Acyclovir - [**2136-9-28**] 12:58 AM
   Metronidazole - [**2136-9-28**] 02:02 AM
   Meropenem - [**2136-9-28**] 03:17 AM
   Daptomycin - [**2136-9-28**] 05:35 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2136-9-28**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-9-28**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 116 (97 - 134) bpm
   BP: 125/85(98) {78/30(45) - 125/85(98)} mmHg
   RR: 15 (12 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
    CVP: 15 (4 - 15)mmHg
   Total In:
                                                                 10,566 mL
                                                                  1,090 mL
   PO:
   TF:
   IVF:
                                                                  4,966 mL
                                                                  1,090 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,950 mL
                                                                  1,400 mL
   Urine:
                                                                  1,200 mL
                                                                    450 mL
   NG:
   Stool:
                                                                  1,350 mL
                                                                    950 mL
   Drains:
   Balance:
                                                                  6,616 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Gen: pale, diaphoretic, tremulous, oriented x3
   HEENT: no JVD, dry mucous membranes
   CV: tachycardic, no appreciable murmur
   Lungs:
   Laying in bed, appears somewhat pale, able to give good history,
   appropriate. No cardiopulmonary distress.
   PERRLA 3-->2, anicteric. Mouth mucosa appears dry. No lesions noted in
   mouth.
   No supraclavicular, cervical, or submandibular LAD
   Lungs CTAB no w/c/r/r noted
   Tachycardic but otherwise reg rhythm, S1 S2 clear, no murmurs
   Abdomen soft, NT, ND, BS+. No hepatosplenomegaly appreciated.
   Skin--Scars noted in suprclav area from previous lines, folliculitis
   widespread on bilateral lower extrems, otherwise no rashes noted
   No edema noted in extremities. 2+ DP's.
   Labs / Radiology
   182 K/uL
   10.0 g/dL
   204 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   23 mg/dL
   111 mEq/L
   138 mEq/L
   29.8 %
   19.3 K/uL
        [image002.jpg]
                             [**2136-9-27**]  06:15 AM
                             [**2136-9-27**]  06:39 AM
                             [**2136-9-27**]  12:30 PM
                             [**2136-9-27**]  06:59 PM
                             [**2136-9-28**]  03:28 AM
   WBC
   15.2
   28.3
   27.2
   19.3
   Hct
   23.7
   24.3
   32.6
   29.8
   Plt
   176
   208
   227
   182
   Cr
   1.4
   1.2
   1.0
   TCO2
   14
   Glucose
   127
   177
   204
   Other labs: PT / PTT / INR:17.8/43.1/1.6, Amylase / Lipase:/22,
   D-dimer:3567 ng/mL, Fibrinogen:438 mg/dL, FDP 10-40 Lactic Acid:2.0
   mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   cyclosporine PND
   UA neg
   Micro:
   b-glucan PND
   asperigilus PND
   adenovirus PND
Respiratory Viral Antigen Screen (Final [**2136-9-27**]):
         Negative for Respiratory Viral Antigen.
   [**9-27**] C diff neg
   [**9-27**] blood cx and urine cx NTD
   [**9-27**] urinary Legionella PND
[**9-27**] stool cx: PND ([**Location (un) **] ANTIGEN, CYCLOSPORA STAIN, FECAL CULTURE, CAMPYLOBACT
ER CULTURE, OVA + PARASITES, FECAL CULTURE - R/O VIBRIO, FECAL CULTURE - R/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
SINIA, FECAL CULTURE - R/O E.COLI 0157:H7, Cryptosporidium/Giardia (DFA), CLOSTR
IDIUM DIFFICILE TOXIN A & B TEST, VIRAL CULTURE)
[**9-27**] CT ABD/PELVIS:
1. Areas of mild thickening of the small bowel wall, most prominent in the right
 lower quadrant. This finding is suggestive of enteritis, likely infectious or i
nflammatory in nature. In the presence of bilateral effusions and ascites, third
-spacing could also call diffuse bowel wall edema. Unlikely due to ischemia.
2. Mild bowel wall thickening/edema seen in the ascending colon. Fluid seen [**Last Name (un) **]
ughout the entire colon suggesting diarrhea.
3. Moderate amount of predominantly perihepatic ascites extending down to the pe
lvis.
4. Moderately sized bilateral pleural effusions and bibasilar atelectasis, uncha
nged since previous MRI abdomen study of [**2136-9-6**].
   [**9-27**] RUQ U/S:
   CONCLUSION: Ascites. Minimal sludge in the gallbladder. No focal liver
   lesions or abscesses identified. No ultrasound evidence for acute
   cholecystitis.
   [**9-25**] CT Chest: 1. No CT findings to suggest a new site of infection in
   the lungs.
   2. Reduction in size of pleural effusions with associated improvement
   in adjacent bibasilar atelectasis.
   3. Unchanged small right apical lung nodule.
   4. Persistent small pericardial effusion and ascites.
   Mr. [**Known lastname **] is a 28yo M h/o AML s/p recurrence after 3 allo transplants,
   recently d/c'd from [**Hospital1 **] on [**9-20**] after ~2 month admission for AML
   relapse/chemotherapy now readmitted with vomiting and diarrhea,
   transferred to the ICU for severe sepsis.
   .
   #Severe sepsis - Bands up to 32 this morning with signs of developing
   DIC, unclear [**Name2 (NI) 10137**] although most likely seems to be GI given main
   symptom of profuse watery diarrhea.  Possible componenet of GVHD
   however this would not explain severity of the picture.  Other
   infection causes include viral source such as CMV, adenovirus, [**Location (un) 10138**],
   bacterial or parasite infection.  Given rib pain other consideration
   could be para-spinal abscess with pain radiation.  Hemodynamically
   stable.
   -cdiff x3: C Diff positive: continue IV flagyl
   -consider addition of vanco for severe C Diff
   -continue broad coverage with [**Last Name (un) 430**]/dapto/vori/flagyl
   -f/u with ID consult recs
   -GI consult given suspicion for abdominal source
   -f/u RUQ ultrasound (althought low suspicion for hepatobiliary source)
   -consider MRI spine imaging
   -f/u nasal aspirate for flu/viral
   -f/u blood cultures, stool culture
   -stool viral antigens per ID reccs (didn't order [**Location (un) 10138**] virus stool ag
   b/c send out requiring special permission)
   -f/u CMV
   -likely will need [**Last Name (un) **]/biopsy when more stable
   -continue levophed for MAP >60, IVF with LR for CVP 10-12, follow
   lactate, ABG
   .
   #Developing DIC - treat underlying cause as above
   -cbc, fibrinogen, tbili, hapto, coags q4 hours
   -monitor for signs of bleeding/thrombosis
   -blood smear
   -transfuse as needed
   .
   #Elevated LFT's - have been elevated over the past two months, LFT
   stable and somewhat trending down but bilirubin slightly elevated.
   Unlikely related to severe sepsis
   -trend lft's
   -RUQ ultrasound
   .
   #Right rib pain - unclear etiology extensive work up previously without
   cause.  Epidural abscess is a possibility but less likely.
   -consider MRI spine for evaluation of epidural abscess once more stable
   -pain management with dialudid prn (consider long acting depending on
   doses)
   .
   #AML, likely GVHD -
   -Cyclosporine 50mg IV bid
   -prophylaxis with vori for fungal, acyclovir, and ursodiol
   -on prednisone for GVHD (will need PCP prophylaxis within next several
   days)
   ICU Care
   Nutrition: Consider TPN; f/u with nutrition consult
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-9-27**] 05:58 AM
   18 Gauge - [**2136-9-27**] 07:44 AM
   Arterial Line - [**2136-9-27**] 09:02 AM
   Multi Lumen - [**2136-9-27**] 10:00 AM
   Prophylaxis:
   DVT: Boots/ ambulating
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2136-09-28 13:23:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28  M recurrent AML s/p SCT X 3, relapse w/ recent chemo and SC boost
   admittd with vomiting and diarrhea, transferred to [**Hospital Unit Name 44**] for management
   of septic shock
   24 Hour Events:
 ARTERIAL LINE - START [**2136-9-27**] 09:02 AM
 MULTI LUMEN - START [**2136-9-27**] 10:00 AM
 ULTRASOUND - At [**2136-9-27**] 10:45 AM
 URINE CULTURE - At [**2136-9-27**] 09:50 PM
 STOOL CULTURE - At [**2136-9-27**] 09:50 PM
   ct abd--small bowel enteritis
   transfused 2 untis prbcs (hct 24--> 32)
   neo--> changed to levophed
 weaned off pressors at 6:30am
   Bolused 1 L LR this am for low CVP, MAPS > 60
   Continues to have voluminous diarrhea
   mri spine ordered, not yet performed
   Allergies:
   Ambisome (Intraven) (Amphotericin B Liposome)
   severe back pa
   Last dose of Antibiotics:
   Daptomycin - [**2136-9-28**] 05:35 AM
   Voriconazole - [**2136-9-28**] 08:00 AM
   Acyclovir - [**2136-9-28**] 10:00 AM
   Metronidazole - [**2136-9-28**] 10:00 AM
   Meropenem - [**2136-9-28**] 12:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2136-9-28**] 10:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-9-28**] 01:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 108 (97 - 117) bpm
   BP: 99/64(76) {94/49(65) - 128/85(100)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 74.1 kg
   Height: 74 Inch
   CVP: 6 (4 - 15)mmHg
   Total In:
                                                                 10,566 mL
                                                                  2,678 mL
   PO:
   TF:
   IVF:
                                                                  4,966 mL
                                                                  2,678 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,950 mL
                                                                  2,170 mL
   Urine:
                                                                  1,200 mL
                                                                    650 mL
   NG:
   Stool:
                                                                  1,350 mL
                                                                  1,520 mL
   Drains:
   Balance:
                                                                  6,616 mL
                                                                    508 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Oriented (to): X 3 appropriate,
   Labs / Radiology
   10.0 g/dL
   182 K/uL
   204 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   23 mg/dL
   111 mEq/L
   138 mEq/L
   29.8 %
   19.3 K/uL
        [image002.jpg]
                             [**2136-9-27**]  06:15 AM
                             [**2136-9-27**]  06:39 AM
                             [**2136-9-27**]  12:30 PM
                             [**2136-9-27**]  06:59 PM
                             [**2136-9-28**]  03:28 AM
   WBC
   15.2
   28.3
   27.2
   19.3
   Hct
   23.7
   24.3
   32.6
   29.8
   Plt
   176
   208
   227
   182
   Cr
   1.4
   1.2
   1.0
   TCO2
   14
   Glucose
   127
   177
   204
   Other labs: PT / PTT / INR:17.8/43.1/1.6, Amylase / Lipase:/22,
   Differential-Neuts:87.0 %, Band:4.0 % (down from 22%), Lymph:1.0 %,
   Mono:7.0 %, Eos:0.0 %, D-dimer:3567 ng/mL, Fibrinogen:438 mg/dL, Lactic
   Acid:2.0 mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: DD up, fibrinogen 438
   Imaging: CT abd pelvis reviewed
   Microbiology: u/a neg
   bd glucan and galactomannan pending
   c diff +
   multiple viral and stool cx's pending
   u legionella pending
   bl/urine ngtd
   Assessment and Plan:
   28  M recurrent AML s/p SCT X 3, relapse w/ recent chemo and SC boost
   presents w/
          Septic shock (hypoten, tachycardia, fevers) --resolved
          Leukocytosis and bandemia (improving)
          Diarrhea/emesis
          NGMA
          Coagulopathy
          ARF (resolved)
          GVHD Liver
          rib pain
   C diff cx now pos. However, remain concerned for infectious etiology in
   addition to severe c diff  for his presentation and ongoing voluminous
   diarrhea such as viral or parasite etiologies. GVHD of bowel w/
   superinfection or MDR organisms also in ddx. He is off pressors, and
   his WBC and bandemia are improving which is reassuring, but he
   continues to have sig GI losses.
   Agree with plan to continue aggressive IVFs to keep up with GI losses,
   w/ goal MAPS > 60, CVP > [**11-5**], following I/Os and urine outpt closely.
   D/w ID team best management for his severe c diff.  Would add PO vanco,
   but given ongoing diarrhea and bowel inflammation (unclear full
   etiology), would continue IV flagyl as well as concern that he may not
   absorb PO meds.  Continue empiric GN, VRE, and fungal coverage as well,
   pending additional ID input.  F/u pending micro data. Trend wbc and
   diff.  Consider GI eval with scope and bx if additional micro data
   unrevealing and diarrhea persists depsite c diff treatment.
   His NGMA (diarrhea and NS) is improving. Continue LR as main fluid. LFT
   abnl but stable overall. Rib pain remains of unclear [**Name2 (NI) 10146**] but is
   improving. ? related to inflammation/sepsis.  S/p extensive unrevealng
   work-up. Would hold on MRI for eval paraspinal absess as low clinical
   suspicion, but will discuss this decision with BMT.  F/u additional BMT
   recs, continue methylpred for gvhd and cyclosporine, prophy acyclovir.
   He will need PCP [**Name Initial (PRE) 1374**].
   His nutritional status is poor with substantial wgt loss.  This most
   likely explains his mild coagulopathy.  Will initiate tpn.
   Remainder of plan as outlined in resident note.
   ICU Care
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2136-9-27**] 07:44 AM
   Arterial Line - [**2136-9-27**] 09:02 AM
   Multi Lumen - [**2136-9-27**] 10:00 AM
   Prophylaxis:
   DVT: Boots OOBs
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments: updated during rounds
   Code status: Full code
   Disposition :ICU for now, consider transfer to BMT later or in am
   tomorrow
   Total time spent: 45 minutes
   Patient is critically ill

2136-09-29 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - off pressor today at 6:30am
   - c. diff positive today, ID recommended IV flagyl plus PO vanc
   - 1L LR for low CVP (6) this morning
   - TPN started today
   Allergies:
   Ambisome (Intraven) (Amphotericin B Liposome)
   severe back pa
   Last dose of Antibiotics:
   Voriconazole - [**2136-9-28**] 10:00 PM
   Metronidazole - [**2136-9-29**] 02:04 AM
   Acyclovir - [**2136-9-29**] 03:11 AM
   Meropenem - [**2136-9-29**] 04:13 AM
   Daptomycin - [**2136-9-29**] 06:04 AM
   Vancomycin - [**2136-9-29**] 06:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-9-28**] 05:48 PM
   Hydromorphone (Dilaudid) - [**2136-9-29**] 03:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-9-29**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 120 (103 - 120) bpm
   BP: 131/89(103) {94/58(70) - 142/93(110)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 74.1 kg
   Height: 74 Inch
    CVP: 13 (6 - 17)mmHg
   Total In:
                                                                  4,661 mL
                                                                  1,785 mL
   PO:
   TF:
   IVF:
                                                                  4,570 mL
                                                                  1,505 mL
   Blood products:
   Total out:
                                                                  4,145 mL
                                                                    450 mL
   Urine:
                                                                  1,150 mL
   NG:
   Stool:
                                                                  2,995 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                    516 mL
                                                                  1,335 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Gen: pale, NAD
   CV: tachy, no murmurs
   Lungs:  Lungs CTAB no w/c/r/r noted
   Abdomen: soft, NT, ND, BS+
   Ext: No edema noted in extremities. 2+ DP's.
   Labs / Radiology
   128 K/uL
   9.8 g/dL
   160 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.2 mEq/L
   27 mg/dL
   112 mEq/L
   137 mEq/L
   29.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2136-9-27**]  06:15 AM
                             [**2136-9-27**]  06:39 AM
                             [**2136-9-27**]  12:30 PM
                             [**2136-9-27**]  06:59 PM
                             [**2136-9-28**]  03:28 AM
                             [**2136-9-28**]  03:03 PM
                             [**2136-9-29**]  04:18 AM
   WBC
   15.2
   28.3
   27.2
   19.3
   13.3
   6.8
   Hct
   23.7
   24.3
   32.6
   29.8
   28.4
   29.4
   Plt
   176
   208
   227
   182
   139
   128
   Cr
   1.4
   1.2
   1.0
   1.0
   1.0
   TCO2
   14
   Glucose
   127
   177
   204
   136
   160
   Other labs:
   D-Dimer: 3022
   137
                               [image004.gif]
                                     112
                               [image004.gif]
                                     27
   [image006.gif]
   160
                                                                   AGap=11
   [image007.gif]
   4.2
                               [image004.gif]
                                     18
                               [image004.gif]
                                     1.0
   [image009.gif]
   Ca: 8.1 Mg: 2.0 P: 3.5
   Triglyc: 333
   FDP: 40-80
   Fibrinogen: 384
   97
                                                                       6.8
                                                            [image009.gif]
                                     9.8
   [image006.gif]
   128
                                                 [image010.gif]
   [image006.gif]
                                    29.4
   [image009.gif]
   N:84 Band:3 L:4 M:8 E:0 Bas:0 Metas: 1 Nrbc: 3
   Comments:
   Neuts: TOXIC GRANULATIONS
   Hypochr: NORMAL Anisocy: 2+ Poiklo: 1+ Macrocy: 3+ Microcy: 1+ Polychr:
   1+ Ovalocy: 1+ Target: OCCASIONAL Schisto: 1+ Stipple: OCCASIONAL
   Tear-Dr: OCCASIONAL
   Comments:
   MANUALLY COUNTED
   Plt-Est: Low
   PT: 16.7
   PTT: 33.5
   INR: 1.5
   MICRO:
   b-glucan PND
   asperigilus PND
   adenovirus PND
Respiratory Viral Antigen Screen (Final [**2136-9-27**]):
         Negative for Respiratory Viral Antigen.
   [**9-28**]: stool O&P pending
   [**9-27**]: C diff positive, O&P neg, cyclospora and cryptosporidia and
   giardia neg, SSYCE pending
   [**9-27**]: c. diff neg
   [**9-27**] blood cx and urine cx NTD
   [**9-27**] urinary Legionella PND
[**9-27**] stool cx: PND ([**Location (un) **] ANTIGEN, CYCLOSPORA STAIN, FECAL CULTURE, CAMPYLOBACT
ER CULTURE, OVA + PARASITES, FECAL CULTURE - R/O VIBRIO, FECAL CULTURE - R/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
SINIA, FECAL CULTURE - R/O E.COLI 0157:H7, Cryptosporidium/Giardia (DFA), CLOSTR
IDIUM DIFFICILE TOXIN A & B TEST, VIRAL CULTURE)
   [**9-26**]: RSV neg
   IMAGING: none
   Assessment and Plan
   Mr. [**Known lastname **] is a 28yo M h/o AML s/p recurrence after 3 allo transplants,
   recently d/c'd from [**Hospital1 **] on [**9-20**] after ~2 month admission for AML
   relapse/chemotherapy now readmitted with vomiting and diarrhea,
   transferred to the ICU for severe sepsis.
   .
   #Severe sepsis
 mostly resolved. Bands normalized to 4 (down from 32)
   this AM. Most likely  GI infection, with profuse watery diarrhea and
   imaging supporting enteritis.  Possible component of GVHD however this
   would not explain severity of the picture.  Other infection causes
   include viral source such as CMV, adenovirus, [**Location (un) 10138**], bacterial or
   parasite infection.  Hemodynamically stable currently, off pressors.
    -cdiff x3: C Diff positive: continue IV flagyl
   -consider addition of vanco for severe C Diff
   -continue broad coverage with [**Last Name (un) 430**]/dapto/vori/flagyl for now
   -f/u with ID consult recs
   -consider GI consult given suspicion for abdominal source
   -f/u blood cultures, stool cultures
   -likely will need [**Last Name (un) **]/biopsy when more stable
   .
   #Developing DIC
 resolved, treat underlying cause as above
   - check DIC parameters in PM
   -monitor for signs of bleeding/thrombosis
   -f/u blood smear
   -transfuse as needed (INR>1.5, plts<50, Hct<25, fibrinogen<100)
   .
   #Elevated LFT's - have been elevated over the past two months, LFT
   stable Unlikely related to severe sepsis
   -trend lft's
   -RUQ ultrasound showed minimal sludge in gallbladder, no acute process.
   .
   #Right rib pain - unclear etiology extensive work up previously without
   cause.  Epidural abscess is a possibility but less likely.
   - will hold off on MRI spine for evaluation of epidural abscess for
   now, consider again once more stable
   -pain management with dialudid prn (consider long acting depending on
   doses)
   .
   #AML, likely GVHD -
   -Cyclosporine 50mg IV bid
   -prophylaxis with vori for fungal, acyclovir, and ursodiol
   -on prednisone for GVHD (will need PCP prophylaxis within next several
   days)
   - f/u Onc recs
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-9-27**] 05:58 AM
   18 Gauge - [**2136-9-27**] 07:44 AM
   Arterial Line - [**2136-9-27**] 09:02 AM
   Multi Lumen - [**2136-9-27**] 10:00 AM
   Prophylaxis:
   DVT: Boots/ ambulating
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU